US06387919B1
To a stirred solution of 1.0 g (6.0 mmol) of chloral hydrate in 25 mL of water was added 7.0 g (22 mmol) of sodium sulfate decahydrate, followed by a solution of 1.18 g (17.0 mmol) of hydroxylamine hydrochloride in 10 mL of water. A solution of 1.0 g (5.4 mmol) of 3-phenoxyaniline in 10 mL of1.0 N HCl was then added with stirring. The resulting suspension was warmed, and 40 mL of 95% EtOH was added to dissolve the suspenion. The solution was refluxed for 0.75 h and then cooled to ambient temperature. The resulting solid was collected by vacuum filtration and air dried to afford 0.95 g (67%) of 2-hydroxyimino-N-(3-phenoxyphenyl)acetamide as a solid: 1H NMR (DMSO-d6): δ 6.42 (d, J=8.4 Hz, 1H), 7.06 (d, J=7.9 Hz, 2H), 7.18 (t, J=7.3 Hz, 1H), 7.25-7.50 (m, 5H), 7.64 (s, 1H), 10.29 (s, 1H), 12.21 (s, 1H); APCI−MS: m/z 255 (M−H)−. A suspension of 0.15 g (0.58 mmol) of 2-hydroxyimino-N-(3-phenoxyphenyl)acetamide in 0.4 mL of BF3 etherate was heated to 85° C. for 0.75 h. The mixture was cooled to rt and 10 g of crushed ice was added. The resulting solid was collected by vacuum filtration and subjected to flash chromatography on silica gel (hexane/EtOAc 1.5:1) to afford 6-phenoxy-1H-indole-2,3-dione as a solid (0.018 g, 13%): 1H NMR (DMSO-d6): δ 6.44 (d, J=2.0 Hz, 1H), 6.56 (dd, J=2.0, 8.4 Hz, 1H), 7.08 (d, J=8.2 Hz, 1H), 7.22-7.29 (m, 1H), 7.38-7.46 (m, 2H), 7.52 (d, J=8.4 Hz, 1H), 9.05 (s, 1H); APCI−MS: m/z 255 (M+Na)+.

reactant | chloral hydrate | 6.0 mmol, 1.0 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate decahydrate | 22 mmol, 7.0 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 17.0 mmol, 1.18 g | Cl.NO
reactant | 3-phenoxyaniline | 5.4 mmol, 1.0 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | HCl | 0 N | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-hydroxyimino-N-(3-phenoxyphenyl)acetamide | 0.95 g, 67% | ON=CC(=O)NC1=CC(=CC=C1)OC1=CC=CC=C1 | C14H12N2O3
